US07049313B2
6-Bromo-thianthrene-2-carboxylic acid
4-(2-bromo-phenylsulfanyl)-3-sulfino-benzoic acid (14 g, 38 mmol) was added slowly to a stirred solution of methanesulphonic acid (160 ml). The purple solution was heated to 60° C. for 3 hours. The reaction was cooled down to room temperature and was poured into ice (300 ml) where an off-white precipitate appeared. The solid was filtered and washed with water (100 ml) and then dried in a vacuum dessicator over activated silica (9.48 g, 73%). 1HNMR (300 MHz, CDCl3): δH=7.29 (1H, t), 7.59 (1H, dd), 7.70 (1H,dd) 7.74 (1H, d), 7.87 (1H, dd), 8.03 (1H, d).m/z (LC-MS, ESP), RT=4.99 min, (M−−1)=339

reactant | 4-(2-bromo-phenylsulfanyl)-3-sulfino-benzoic acid | 38 mmol, 14 g | BrC1=C(C=CC=C1)SC1=C(C=C(C(=O)O)C=C1)S(=O)O | C13H9BrO4S2
reactant | methanesulphonic acid | 160 ml | CS(=O)(=O)O | CH4O3S
product | 6-Bromo-thianthrene-2-carboxylic acid | BrC1=C2SC=3C=CC(=CC3SC2=CC=C1)C(=O)O | C13H7BrO2S2
